US04496567
A mixture of 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone (1.0 g),2-[3-(dimethylaminomethyl)benzylthio]ethylamine (1.30 g, 1.5 equivalents) and ethanol (3 ml) was heated under reflux for 29 hours and evaporated to dryness. The residue was dissolved in water and the solution was adjusted to pH13 and extracted with ether (which was discarded). The aqueous phase was adjusted to pH 10.5 with hydrochloric acid and the solution was extracted with ether and chloroform. The combined organic extracts were evaporated to dryness and the residue was crystallised from acetonitrile to give 2-[2-[3-(dimethylaminomethyl)benzylthio]ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone m.p. 122°-125°. Treatment with hydrogen chloride in ethanol gives the trihydrochloride salt and treatment with hydrogen bromide in ethanol gives the trihydrobromide salt.

reactant | 2-nitroamino-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | 1.0 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
reactant | 2-[3-(dimethylaminomethyl)benzylthio]ethylamine | 1.30 g, 1.5 equivalents | CN(C)CC=1C=C(CSCCN)C=CC1 | C12H20N2S
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-[2-[3-(dimethylaminomethyl)benzylthio]ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | CN(C)CC=1C=C(CSCCNC2=NC=C(C(N2)=O)CC=2C=NC(=CC2)C)C=CC1 | C23H29N5OS
